US05384318
Cis-3-[[6-[(5-fluoro-2-benzothiazolyl)methoxy]-3,4-dihydro-4-hydroxy-2H-1-benzopyran-3-yl]methyl]-N,N-dimethylbenzamide
364 milligrams triethylamine was added to a solution containing 1.5 grams cis-4-nitrophenyl-3-[[6-[(5-fluoro-2-benzothiazolyl)methoxy]-3,4-dihydro-4-hydroxy-2H-1-benzopyran-3-yl]methyl]benzoate in tetrahydrofuran at 0° C. After stirring for 5 minutes at 0° C., a solution of isobutylchloroformate in 5 milliliters of tetrahydrofuran was added dropwise. After stirring at 1° C. for 15 minutes, 364 milligrams anhydrous dimethylamine was bubbled into the reaction mixture for 1-2 minutes. The reaction mixture was allowed to warm to room temperature and the volatiles were evaporated. The residue was purified by chromatography on silica gel eluting with methylene dichloride/ethyl acetate to give 535 mg of product.

reactant | triethylamine | 364 milligrams | C(C)N(CC)CC | C6H15N
reactant | cis-4-nitrophenyl-3-[[6-[(5-fluoro-2-benzothiazolyl)methoxy]-3,4-dihydro-4-hydroxy-2H-1-benzopyran-3-yl]methyl]benzoate | 1.5 grams | [N+](=O)([O-])C1=CC=C(C=C1)C1=C(C(=O)[O-])C=CC=C1C[C@@H]1COC2=C([C@@H]1O)C=C(C=C2)OCC=2SC1=C(N2)C=C(C=C1)F
reactant | isobutylchloroformate | C(C(C)C)OC(=O)Cl | C5H9ClO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 milliliters | O1CCCC1 | C4H8O
product | Cis-3-[[6-[(5-fluoro-2-benzothiazolyl)methoxy]-3,4-dihydro-4-hydroxy-2H-1-benzopyran-3-yl]methyl]-N,N-dimethylbenzamide | 535 mg | FC=1C=CC2=C(N=C(S2)COC=2C=CC3=C([C@@H]([C@@H](CO3)CC=3C=C(C(=O)N(C)C)C=CC3)O)C2)C1 | C27H25FN2O4S
